US06573273B1
Using the general method of Example 145, except that the reaction was run at ambient temperature, 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 3.2 mmol) was reacted with phenyl isocyanate (0.35 mL, 3.2 mmol) to provide 0.75 g of N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-phenylurea as white needles, m.p. 185-187° C. Analysis: Calculated for C25H30N6O. H2O: %C, 66.94; %H, 7.19; %N, 18.74; Found: %C, 67.31; %H, 7.20; %N, 18.70.

reactant | 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.2 mmol, 1.0 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C18H25N5
reactant | phenyl isocyanate | 3.2 mmol, 0.35 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-phenylurea | 0.75 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)NC2=CC=CC=C2)CCCC | C25H30N6O
